US04565654
A solution of 118 mg (0.5 mmole) of N-hydroxy-3-(Cbz-amino)-2-azetidinone, prepared as described by Example 3, in 10 ml of tetrahydrofuran and 10 ml of water at pH 7 was added to a flask equipped with a magnetic stirrer, a buret, and a pH electrode. The solution was maintained under nitrogen and was treated with a solution of 0.8 ml of 20% titanium trichloride by dropwise addition from a syringe. The pH of the reaction mixture was maintained at 7.0 during the addition of the TiCl3 by the addition of 3.0 N sodium hydroxide through the buret as needed. After the addition was complete the reaction mixture was stirred at room temperature for 2 hours. The pH of the reaction mixture was adjusted to 8.0, transferred to a separatory funnel and extracted with three 25 ml portions of ethyl acetate. The combined ethyl acetate was washed with 10 ml of brine, dried over magnesium sulfate, filtered and evaporated to dryness. The residue was recrystallized from ethyl acetate-hexanes to give 69 mg (60%) of 3-(Cbz-amino)-2-azetidinone as a white solid melting at about 160° C. to about 161° C.

reactant | N-hydroxy-3-(Cbz-amino)-2-azetidinone | 0.5 mmole, 118 mg | ON1C(C(C1)NC(=O)OCC1=CC=CC=C1)=O | C11H12N2O4
reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | 3.0 N | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | titanium trichloride | 0.8 ml | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 3-(Cbz-amino)-2-azetidinone | 69 mg, 60% | C(=O)(OCC1=CC=CC=C1)NC1C(NC1)=O | C11H12N2O3
